US05219860
1'-n-Butylxpiro[indane-1,4'-piperidine]
In the same way as that described in Example 1, step 5, the title compound was prepared using spiro[indane-1,4'-piperidine] (77 mg, 0.41 mmol), DMF (10 ml), potassium carbonate (68 mg, 0.49 mmol), and n-butyl iodide (0.05 ml, 0.45 mmol). The crude residue was chromatographed using 5:95 methanol: dichloromethane, to give 1'-n-butylspiro[indane-1,4'-piperidine] (53 mg, 53%) as a beige solid.

reactant | spiro[indane-1,4'-piperidine] | 0.41 mmol, 77 mg | N1CCC2(CC1)CCC1=CC=CC=C12 | C13H17N
reactant | potassium carbonate | 0.49 mmol, 68 mg | C([O-])([O-])=O.[K+].[K+]
reactant | n-butyl iodide | 0.45 mmol, 0.05 ml | C(CCC)I | C4H9I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1'-n-butylspiro[indane-1,4'-piperidine] | 53 mg, 53% | C(CCC)N1CCC2(CC1)CCC1=CC=CC=C12 | C17H25N
